US06486325B1
To a solution of 1,1,1-trifluoro-2-[2-(2-hydroxy-ethyl)-4-methoxy-phenyl]-propan-2-ol (5.00 g, 18.9 mmol) in dichloromethane (30 mL) was added triethylamine (9.20 mL, 66.3 mmol). The solution was cooled to 0° C. and methanesulfonyl chloride (1.61 mL, 20.8 mmol) was added dropwise. The reaction mixture was allowed to warm to room temperature and was stirred 12 hours. The formation of methanesulfonic acid 2-[5-methoxy-2-(2,2,2-trifluoro-1-hydroxy-1-methyl-ethyl)-phenyl]-ethyl ester is rapid and its disappearance was monitored by HPLC (retention time=4.5 minutes, Zorbax Rx-C6 column 4.6×150 mm, 40° C., 50% CH3CN/50% (0.2% Et3N, 0.1% H3PO4 aqueous pH=3.2 buffer), 1 mL/min). At the end of the reaction, the mixture was poured into 1N aqueous hydrochloric acid (30 mL) and was extracted with dichloromethane (20 mL). The organic extracts were dried over magnesium sulfate, filtered, and concentrated to afford 6-methoxy-1-methyl-1-trifluoromethyl-isochroman as an oil (3.40 g, 73%). 1H NMR (300 MHz, CDCl3) δ1.69 (s, 3), 2.85-2.90 (m, 2), 3.85 (s, 3), 3.90-3.98 (m, 1), 4.14-4.21 (m, 1), 6.72 (d, 1, J=2.6), 6.85 (dd, 1, J=8.7, 2.6), 7.31 (d, 1, J=8.7). 13C NMR (100 MHz, CDCl3) δ23.25, 29.42, 55.19, 61.37, 76.10 (q, J=27.4), 112.84, 113.43, 124.85, 125.96 (q, J=289), 127.86, 136.49, 158.98. IR 2946, 2839, 1738, 1611, 1505, 1162, 1137, 1101 cm−1. Analysis calculated for C12H13F3O2: C, 58.54; H, 5.32. Found: C, 58.27; H, 5.35.

reactant | 1,1,1-trifluoro-2-[2-(2-hydroxy-ethyl)-4-methoxy-phenyl]-propan-2-ol | 18.9 mmol, 5.00 g | FC(C(C)(O)C1=C(C=C(C=C1)OC)CCO)(F)F | C12H15F3O3
reactant | triethylamine | 66.3 mmol, 9.20 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 20.8 mmol, 1.61 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulfonic acid 2-[5-methoxy-2-(2,2,2-trifluoro-1-hydroxy-1-methyl-ethyl)-phenyl]-ethyl ester | COC=1C=CC(=C(C1)CCOS(=O)(=O)C)C(C(F)(F)F)(C)O | C13H17F3O5S
reactant | hydrochloric acid | 1N, 30 mL | Cl | ClH
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | CH3CN | pH=3.2 | CC#N | C2H3N
product | 6-methoxy-1-methyl-1-trifluoromethyl-isochroman | 3.40 g, 73% | COC=1C=C2CCOC(C2=CC1)(C(F)(F)F)C | C12H13F3O2
